US07459552B2
Synthesis of 2-bromo-N-[2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridin-3-yl]acetamide
3-Amino-2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridine (1.39 g, 4.96 mmol) was dissolved in dichloromethane (15 mL). N,N-dimethylaniline (0.76 g, 6.27 mmol) was added to the solution. Under stirring on an ice bath, bromoacetyl bromide (1.16 g, 5.75 mmol) in dichloromethane (5 mL) was added dropwise to the mixture, followed by stirring at the same temperature for 30 minutes. The reacion mixture was directly subjected to silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1→n-hexane/acetone=1/1) for purification, to thereby yield 2-bromo-N-[2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridin-3-yl]acetamide as a colorless solid (1.98 g, 99%).

reactant | 3-Amino-2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridine | 4.96 mmol, 1.39 g | NC=1C(=NC(=CC1OCC(F)(F)F)C)OCCOC | C11H15F3N2O3
reactant | N,N-dimethylaniline | 6.27 mmol, 0.76 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | 5.75 mmol, 1.16 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-bromo-N-[2-[(2-methoxyethyl)oxy]-6-methyl-4-[(2,2,2-trifluoroethyl)oxy]pyridin-3-yl]acetamide | BrCC(=O)NC=1C(=NC(=CC1OCC(F)(F)F)C)OCCOC | C13H16BrF3N2O4
